US05212169
(b) Preparation of methyl 4-pyridinepropanoate
Methyl 3-(4-pyridinyl)propenoate (7.00 grams) and 10% palladium on carbon (1.00 gram) were vigorously stirred in methanol (70 mL) at room temperature under a hydrogen atmosphere for 5 hours. The catalyst was removed by filtration through a filter aide, and the filtrate was evaporated in vacuo. The crude product was purified by distillation in a kugelrohr apparatus. Yield: 5.14 grams (73%). Bp: 125° C. (oven temperature) at 0.6 mm Hg.

reactant | Methyl 3-(4-pyridinyl)propenoate | 7.00 grams | N1=CC=C(C=C1)C=CC(=O)OC | C9H9NO2
catalyst | palladium on carbon | 1.00 gram | [Pd] | Pd
solvent | methanol | 70 mL | CO | CH4O
product | methyl 4-pyridinepropanoate | N1=CC=C(C=C1)CCC(=O)OC | C9H11NO2
